US08729102B2
A) tert-butyl [(1S)-2-({5-[(2,4-dihydroxyphenyl)carbamoyl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate
Using 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylic acid and 4-aminobenzene-1,3-diol hydrochloride, and in the same manner as in Example 2, step C, the title compound was obtained.

reactant | 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](COC1=NOC(=C1)C(=O)O)C | C12H18N2O6
reactant | 4-aminobenzene-1,3-diol hydrochloride | Cl.NC1=C(C=C(C=C1)O)O
product | tert-butyl [(1S)-2-({5-[(2,4-dihydroxyphenyl)carbamoyl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate | OC1=C(C=CC(=C1)O)NC(=O)C1=CC(=NO1)OC[C@H](C)NC(OC(C)(C)C)=O | C18H23N3O7
